US06350907B1
A solution of 2-bromo-5-nitrotoluene (40.0 gm, 185 mmol) in 1,2-dimethoxyethane (600 mL) was added to tetrakis(triphenylphosphine)palladium(0) (9.77 gm, 9.25 mmol) under nitrogen at room temperature. A solution of 3-methoxyphenylboronic acid (31.5 gm, 207 mmol) in ethanol (150 mL) was added. Finally, 2M aqueous sodium carbonate (800 mL) was added and the mixture was heated under reflux with rapid mechanical stirring for 18 h. After being cooled, the mixture was partitioned between ethyl acetate and water and the organic phase was dried (Na2SO4) and concentrated under reduced pressure. Purification by column chromatography on silica gel eluting with hexane:ethyl acetate=98:2 then 95:5 gave 1-(3-methoxyphenyl)-2-methyl-4-nitrobenzene (40.55 gm, 90%).

reactant | 2-bromo-5-nitrotoluene | 185 mmol, 40.0 gm | BrC1=C(C=C(C=C1)[N+](=O)[O-])C | C7H6BrNO2
reactant | 3-methoxyphenylboronic acid | 207 mmol, 31.5 gm | COC=1C=C(C=CC1)B(O)O | C7H9BO3
reactant | sodium carbonate | 2M, 800 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,2-dimethoxyethane | 600 mL | COCCOC | C4H10O2
solvent | ethanol | 150 mL | C(C)O | C2H6O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 9.25 mmol, 9.77 gm | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-(3-methoxyphenyl)-2-methyl-4-nitrobenzene | 40.55 gm, 90% | COC=1C=C(C=CC1)C1=C(C=C(C=C1)[N+](=O)[O-])C | C14H13NO3
